US08124780B2
(42c) (2-ethyl-1,3-dioxan-2-yl)methanol
A mixture of (2-ethyl-1,3-dioxan-2-yl)methyl benzoate (4.33 g, 17.3 mmol), potassium carbonate (4.95 g, 35.9 mmol), tetrahydrofuran (50 ml), and water (20 ml) was stirred at room temperature for 11 hours. A 5N aqueous sodium hydroxide solution (2 ml) was added to the mixture, which was stirred at room temperature for 7 hours and then methanol (50 ml) was added thereto, which was stirred at room temperature for 4 hours. The reaction mixture was concentrated under reduced pressure. Ethyl acetate was added to the residue and insoluble matter was removed by filtration. The filtrate was concentrated under reduced pressure. The residue was dissolved in heptane/ethyl acetate and subjected to silica gel column chromatography (elution solvent: n-heptane/ethyl acetate=2/1→1/1) to obtain the title compound (2.35 g, 92.9%) as a colorless oil.

reactant | (2-ethyl-1,3-dioxan-2-yl)methyl benzoate | 17.3 mmol, 4.33 g | C(C1=CC=CC=C1)(=O)OCC1(OCCCO1)CC | C14H18O4
reactant | potassium carbonate | 35.9 mmol, 4.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 5N, 2 ml | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | (2-ethyl-1,3-dioxan-2-yl)methanol | 2.35 g, 92.9% | C(C)C1(OCCCO1)CO | C7H14O3
